US07700641B2
To a solution of cyclopentanone (0.04 mL, 0.45 mmol) and triethyl amine (0.12 mL, 0.84 mmol) in dichloroethane (5.00 mL) was added 1′-(2-piperidin-4-ylethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride (0.12 g, 0.28 mmol) and sodium triacetoxyborohydride (0.10 g, 0.45 mmol). The reaction mixture was stirred for 16 hrs and concentrated in vacuo to dryness. The residue was subjected to flash chromatography eluting with ethyl acetate/methanol/ammonium hydroxide (15/1/0.1) to give 1′-[2-(1-cyclopentylpiperidin-4-yl)ethyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one as a white solid, which was treated with 4.0 M HCl in dioxane to give the title compound (0.05 g, 32% yield): mp 153-155° C.; 1H NMR (300 MHz, CD3OD) δ 7.37 (td, 1H), 7.21-7.08 (m, 3H), 6.53 (s, 1H), 6.11 (s, 1H), 5.88 (s, 1H), 5.87 (s, 1H), 4.83 (d, 1H), 4.69 (d, 1H), 3.98-3.75 (m, 2H), 3.68-3.38 (m, 3H), 3.01-2.83 (m, 2H), 2.25-2.08 (m, 4H), 1.92-1.37 (m, 11H); 13C NMR (75 MHz, CD3OD) δ 179.8, 157.6, 150.4, 143.8, 143.4, 133.6, 130.3, 124.9, 124.8, 120.8, 110.3, 103.7, 103.0, 94.3, 81.4, 69.1, 59.8, 53.2, 38.6, 34.3, 32.5, 30.6, 30.5, 29.4, 24.7; MS (ES+) m/z 461 (M+1).

reactant | cyclopentanone | 0.45 mmol, 0.04 mL | C1(CCCC1)=O | C5H8O
reactant | triethyl amine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 1′-(2-piperidin-4-ylethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrochloride | 0.28 mmol, 0.12 g | Cl.N1CCC(CC1)CCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O
reactant | sodium triacetoxyborohydride | 0.45 mmol, 0.10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5.00 mL | ClC(C)Cl | C2H4Cl2
product | 1′-[2-(1-cyclopentylpiperidin-4-yl)ethyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | C1(CCCC1)N1CCC(CC1)CCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C28H32N2O4
